US08105662B2
c) 2-[(6-bromohexanoyl)oxy]propyl acrylate
To a 0° C. cooled mixture of 6-bromohexanoic acid (9.89 g), 2-hydroxypropyl acrylate (6 g), in CH2Cl2 (30 ml), EDC (7.89 g) was added. After being stirred for 30 min the reaction mixture was diluted with additional 20 ml of CH2Cl2 and stirring was continued for 16 h at room temperature. It was then filtered over celite and the filtrate was evaporated to dryness. The obtained beige-yellow residue was purified by silica column chromatography to give nearly pure material as transparent oil.

reactant | 6-bromohexanoic acid | 9.89 g | BrCCCCCC(=O)O | C6H11BrO2
reactant | 2-hydroxypropyl acrylate | 6 g | C(C=C)(=O)OCC(C)O | C6H10O3
reactant | EDC | 7.89 g
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-[(6-bromohexanoyl)oxy]propyl acrylate | C(C=C)(=O)OCC(C)OC(CCCCCBr)=O | C12H19BrO4
